US05559141
c) 1 -benzyl-5-[4-(4-fluorophenyl)-1-hydroxy-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole
9,9 g of p-tert-butylaminocarbonylphenyl bromide is dissolved in 200 ml of dry tetrahydrofuran and cooled to -70° C. To the solution is added dropwise n-butyl lithium (5,3 g) in hexane and the mixture is stirred for one hour. 1-benzyl-5-[4-(4-fluorophenyl)-1-oxobutyl]-1H-imidazole (10,4 g) in 200 ml of tetrahydrofuran is added to the mixture at -70° C. and the mixture is allowed to warm to room temperature and stirring is continued over night. Saturated ammonium chloride is added to the mixture and the solution is extracted with ethyl acetate. Ethyl acetate fractions are combined and evaporated to dryness.

reactant | p-tert-butylaminocarbonylphenyl bromide | 9,9 g | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)Br | C11H14BrNO
reactant | n-butyl lithium | 5,3 g | C(CCC)[Li]
reactant | 1-benzyl-5-[4-(4-fluorophenyl)-1-oxobutyl]-1H-imidazole | 10,4 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)=O | C20H19FN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1 -benzyl-5-[4-(4-fluorophenyl)-1-hydroxy-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)(C1=CC=C(C=C1)C(=O)NC(C)(C)C)O | C31H34FN3O2
